US05753595
Under a nitrogen atmosphere 25 mL of ethyl acetate was stirred and cooled in an ice bath. To this was added via syringe 9.5 mL (18 mmole) of 1.9M phosgene in toluene. During 25 minutes, a solution of 3.0 grams (11.8 mmole) of 7-amino-2,4,6-trichlorobenzothiazole in 75 mL of ethyl acetate was added dropwise. Upon completion of the addition the reaction mixture was warmed to ambient temperature and then gently heated at reflux for 2.5 hours. After this time the reaction mixture was concentrated under reduced pressure, yielding (2,4,6-trichlorobenzothiazol-7-yl)isocyanate, which was stored in a refrigerator.

reactant | phosgene | 18 mmole, 1.9M, 9.5 mL | C(=O)(Cl)Cl | CCl2O
reactant | 7-amino-2,4,6-trichlorobenzothiazole | 11.8 mmole, 3.0 grams | NC1=C(C=C(C=2N=C(SC21)Cl)Cl)Cl | C7H3Cl3N2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (2,4,6-trichlorobenzothiazol-7-yl)isocyanate | ClC=1SC2=C(N1)C(=CC(=C2N=C=O)Cl)Cl | C8HCl3N2OS
